US04286998
Preparation of 2-anilinoacridone
A mixture of 70 g of 5,6,7,8-tetrahydro-2-anilinoacridone and 700 ml of Dowtherm® A was brought to reflux in a 2-liter resin kettle, in a nitrogen atmosphere. A stainless steel mesh basket containing 14.5 g of 0.5% palladium on 1/8 inch alumina pellets was lowered into the reaction mixture. The mixture was refluxed for 18 hours. The basket was removed from the reaction mixture, which was then allowed to cool. The precipitated product was collected on a filter and washed with four 350 ml aliquots of methanol. Vacuum oven drying at 100° C. overnight gave 61.4 g (89%) of the product that was analyzed by microanalysis.

reactant | 5,6,7,8-tetrahydro-2-anilinoacridone | 70 g | N(C1=CC=CC=C1)C1=CC=2C(C=3CCCCC3NC2C=C1)=O | C19H18N2O
reactant | Dowtherm | 700 ml | C1=CC=C(C=C1)C2=CC=CC=C2.C1=CC=C(C=C1)OC2=CC=CC=C2
catalyst | palladium | 14.5 g | [Pd] | Pd
product | 2-anilinoacridone | 61.4 g, 89% | N(C1=CC=CC=C1)C1=CC=2C(C3=CC=CC=C3NC2C=C1)=O | C19H14N2O
